US04859653
EXAMPLE 2 --Butyryl phenylalanine
This preparation is conducted as in example 1 with 33 g (0.2 mol) of phenylalanine and 36 g of butyric anhydride.

reactant | phenylalanine | 0.2 mol, 33 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | butyric anhydride | 36 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
product | 2 --Butyryl phenylalanine | C(CCC)(=O)C1=C(C[C@H](N)C(=O)O)C=CC=C1 | C13H17NO3
